2149-10-11 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Massive hematemesis
   Intubated
   Fentanyl and Versed drip started
   2 L NS
   6 units PRBCs
 MULTI LUMEN - START [**2149-10-11**] 04:00 AM - central line placed in left
   IJ w/ ultrasound
 ENDOSCOPY - At [**2149-10-11**] 05:19 AM - LIVER paged, scoped at bedside,
   large varicies, glued with ethiodol.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-10-10**] 11:15 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2149-10-11**] 02:34 AM
   Midazolam (Versed) - [**2149-10-11**] 02:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-10-11**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 99 (99 - 133) bpm
   BP: 142/82(98) {83/38(50) - 172/91(106)} mmHg
   RR: 16 (14 - 37) insp/min
   SpO2: 100%
   Height: 67 Inch
    CVP: 339 (11 - 339)mmHg
   Total In:
                                                                    208 mL
                                                                  5,012 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                    208 mL
                                                                  2,122 mL
   Blood products:
                                                                  2,840 mL
   Total out:
                                                                      0 mL
                                                                    615 mL
   Urine:
                                                                    115 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                    208 mL
                                                                  4,397 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 3,976 (3,976 - 3,976) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 30 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///14/
   Ve: 8.7 L/min
   Physical Examination
   GEN: intubated, sedated, not responsive to noxious stimuli,
   HEENT: PERRL, pinpoint 3mm to 2mm
   RESP: grossly clear without wheezes or rhonchi, referred sounds from ET
   tube
   CV: RRR, normal S1, S2, 3/6 systolic murmur LSB, increases w/
   expiration
   ABD: distended but soft, + fluid wave, bowel sounds +
   EXT: dp pulses 2+ bilaterally, no edema
   SKIN: no rash
   NEURO: intubated, sedated
   Labs / Radiology
   80 K/uL
   13.9 g/dL
   166 mg/dL
   1.1 mg/dL
   14 mEq/L
   4.6 mEq/L
   15 mg/dL
   120 mEq/L
   147 mEq/L
   41.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2149-10-10**]  09:04 PM
                             [**2149-10-11**]  02:46 AM
   WBC
   4.2
   7.3
   Hct
   32.6
   41.3
   Plt
   109
   80
   Cr
   1.3
   1.1
   Glucose
   170
   166
   Other labs: PT / PTT / INR:19.8/35.9/1.8, ALT / AST:17/32, Alk Phos / T
   Bili:54/3.0, Amylase / Lipase:37/31, Differential-Neuts:87.7 %,
   Lymph:6.4 %, Mono:5.5 %, Eos:0.1 %, Albumin:2.3 g/dL, LDH:268 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   CXR: clear lung fields, eleveated right hemidiaphragm, deep left lung
   field, likely rotation.  IJ central line ending in SVC.
   Assessment and Plan
   60 y/o man with cryptogenic cirrhosis, s/p TIPS, admitted with
   hematemesis.
   .
   # Hematemesis: Apparently no esophageal varices seen on prior EGD
   though patient known to have gastric varix which is rebleeding causing
   this presentation.  Massive Hematemesis last night requiring 2L IVF,
   6unit PRBCs, intubation for airway protection, and EGD with control of
   bleeding varix.
   - active T&C X 2 u
   - 2 large bore PIVs, and IJ
   - octreotide gtt
   - pantoprazole IV BID
   - head of bed elevated
   - Liver team following
   - Scheduled for US today.
   - cipro 400 iv q12h for sbp treatment in GI bleed
   .
   # Cryptogenic cirrhosis: Once GI bleed stabilized, resume lactulose for
   encephalopathy.
   - trend LFTs, bili
   .
   # Coagulopathy: INR elevated > 1.5
   - vitamin K SC 10 mg daily
   - FFP 2 U to reverse INR now
   .
   # FEN: NPO for now, replete lytes prn
   .
   # ACCESS: 18 g and 20 g, left IJ
   .
   #PPx
   - PPI IV
   - pneumoboots, avoid heparin as platelets < 100,000
   - bowel meds prn
   .
   # CODE: FULL, confirmed with HCP wife
   .
   # COMMUNICATION: with patient and wife
   .
   # DISPO: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-10-10**] 09:34 PM
   18 Gauge - [**2149-10-11**] 03:36 AM
   Multi Lumen - [**2149-10-11**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM [**Known lastname 708**]
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   cirrhosis, varices, prior TIPS - hematemesis, transfused, octreotide
   developed respiratory failure and required intubation
   Exam notable for Tm 97.9 BP 142/82 HR 99 RR 16 with 100 sat on .6
   AC16/550/5/.6
   Intubated, sedated, unresponsive
   RRR, coarse BS
s, abd distended, quiet bowel sounds
   no edema
   Labs notable for WBC 7K, HCT 33 plt 69 , 4.6 K+ , HCO3 14 Cr 1.1 INR
   1.6
   CXR reviewed
 rotated, ETT and RIJ ok, vascular congestion and left
   perihilar infiltrates
   Problems:
   GI bleed due to gastric varices s/p ethiodol injection
   Resp failure
   blood loss anemia
   Agree with plan to continue supportive care, follow Hct, coags,
   platelets, evaluate TIPS with U/S, cont octreotide, wean vent as
   tolerated
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2149-10-11**] 14:05 ------

2149-10-13 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   RUQ u/s to evaluate TIPs revision revealed increased flow with
   appropriate gradient across revision
   Much improved mental status with lactulose enemas, extubated, protected
   airway without difficulty, converted all meds to PO
   c/o
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-10-13**] 12:23 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2149-10-12**] 11:08 AM
   Pantoprazole (Protonix) - [**2149-10-12**] 10:00 PM
   Metoprolol - [**2149-10-12**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-10-13**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 105 (100 - 126) bpm
   BP: 123/67(81) {99/51(63) - 140/82(92)} mmHg
   RR: 14 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 8 (3 - 8)mmHg
   Total In:
                                                                  1,707 mL
                                                                    728 mL
   PO:
                                                                     60 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,647 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,410 mL
                                                                    350 mL
   Urine:
                                                                  2,410 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -703 mL
                                                                    378 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 606 (588 - 606) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 39%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG:
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   78 K/uL
   10.1 g/dL
   122 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.5 mEq/L
   16 mg/dL
   120 mEq/L
   145 mEq/L
   28.9 %
   5.3 K/uL
        [image002.jpg]
                             [**2149-10-11**]  12:12 PM
                             [**2149-10-11**]  04:15 PM
                             [**2149-10-11**]  10:37 PM
                             [**2149-10-11**]  10:41 PM
                             [**2149-10-12**]  01:35 AM
                             [**2149-10-12**]  04:55 AM
                             [**2149-10-12**]  09:21 AM
                             [**2149-10-12**]  03:40 PM
                             [**2149-10-12**]  07:38 PM
                             [**2149-10-13**]  04:05 AM
   WBC
   7.1
   5.1
   5.2
   5.8
   6.7
   5.3
   Hct
   35.1
   30.5
   30.3
   30.7
   30.7
   32.3
   31.8
   28.9
   Plt
   70
   61
   64
   63
   75
   78
   78
   Cr
   1.1
   1.1
   1.0
   1.2
   1.1
   TCO2
   19
   Glucose
   166
   121
   127
   173
   153
   122
   Other labs: PT / PTT / INR:17.8/38.3/1.6, ALT / AST:17/28, Alk Phos / T
   Bili:65/3.3, Amylase / Lipase:37/31, Differential-Neuts:87.7 %,
   Lymph:6.4 %, Mono:5.5 %, Eos:0.1 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:268 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   60 y/o man with cryptogenic/NASH cirrhosis, s/p TIPS with revision
   [**10-11**], admitted with hematemesis.
   .
   ### AMS: Likely [**2-22**] hepatic encephalopathy which is worsened in setting
   of acute bleed.
   -Lactulose enemas TID
   -intubated for airway protection
   .
   ###. Cryptogenic cirrhosis c/b:
   # Hematemesis: Likely [**2-22**] known gastric fundal varix and increased
   pressure gradient due to poorly functioning TIPs. Now s/p TIPs revision
   - repeat ultrasound to reassess TIPS function
   - Lactulose Enemas TIS
   - active T&C X 2 u
   - 2 large bore PIVs, and IJ
   - octreotide gtt
   - pantoprazole IV BID
   - head of bed elevated
   - liver recs
   - cipro 400 iv q12h for sbp ppx in setting of GI bleed
   .
   # Coagulopathy: INR elevated > 1.5. Received vit K on [**10-11**]. INR 1.7
   today.
   - monitor, NTD unless rebleeds (then FFP)
   .
   # FEN: NPO (intubated)
 attempt NG/OG if no improvement in MS today
   - + 7 L yesterday --- diurese today beginning w Lasix 20mg IV
   .
   #. Glycemic Control
 good glucose control
   .
   #. Lines
 2 PIVs, RIJ ([**10-11**]) C/D/I
   .
   #PPx
   - IV PPI, pneumoboots, lactulose
   .
   # CODE: FULL, confirmed with HCP wife
   .
   # COMMUNICATION: with patient and wife
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-10-11**] 03:36 AM
   Multi Lumen - [**2149-10-11**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: